US04395577
Preparation of N-(2-methyl-5-nitrobenzyl)acetamide
A solution of p-nitrotoluene (6.85 g; 0.05 mol) in concentrated sulfuric acid (60 ml) is cooled in an ice bath and N-(hydroxymethyl)acetamide (4.45 g; 0.05 mol) is added. The reaction mixture is stirred until a solution is obtained and then continuously stirred for 16 hours at 55° C. The mixture is then poured onto ice and the resulting precipitate is isolated. This solid material is extracted with 85 ml of butyl acetate on a steambath. Concentration of the butyl acetate solution with subsequent cooling gives 3.9 g (i.e., 38% yield) of product. The butyl acetate insoluble material (2.5 g) is methylene bis(4-nitro-o-toluene).

reactant | p-nitrotoluene | 0.05 mol, 6.85 g | [N+](=O)([O-])C1=CC=C(C=C1)C | C7H7NO2
reactant | N-(hydroxymethyl)acetamide | 0.05 mol, 4.45 g | OCNC(C)=O | C3H7NO2
reactant | butyl acetate | 2.5 g | C(C)(=O)OCCCC | C6H12O2
solvent | sulfuric acid | 60 ml | S(O)(O)(=O)=O | H2O4S
product | N-(2-methyl-5-nitrobenzyl)acetamide | 38% yield | CC1=C(CNC(C)=O)C=C(C=C1)[N+](=O)[O-] | C10H12N2O3
